US07714010B2
b) 5,7,7-Trimethyl-2-(2-p-tolyl-ethyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one
A solution of 3-phenyl-N-(1,3,3-trimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-propionamide (532 mg) in acetic acid (8 ml) is hydrogenated at 2-4 bar at RT using Pd/C (10%, 80 mg), where upon ring closure occurs. After evaporation of the solvent the residue is taken-up in NaOH solution (2 N) and extracted with EtOAc (2×20 ml). The combined organic layer is washed with brine, dried over Na2SO4 and evaporated. The residual material is triturated with acetone to give the desired compound (466 mg).

reactant | 3-phenyl-N-(1,3,3-trimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-propionamide | 532 mg | C1(=CC=CC=C1)CCC(=O)NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])C)=O)(C)C | C20H21N3O4
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 80 mg | [Pd] | Pd
product | 5,7,7-Trimethyl-2-(2-p-tolyl-ethyl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 466 mg | CN1C(C(C=2C=C3C(=CC12)N=C(N3)CCC3=CC=C(C=C3)C)(C)C)=O | C21H23N3O
